US04480098
To a cold (-70° C.) stirred solution of lithium diisopropylamide in THF, prepared in situ by reaction of 3.63 g of freshly distilled diisopropylamine and 22 ml of 1.6M n-butyl lithium in 50 ml of hexane, were added dropwise over twenty minutes 4.05 g (30 mMoles) of thieno[3,2-c]pyridine in 20 ml of THF. The reaction mixture was stirred for twenty minutes following the addition, and then was diluted by the dropwise addition of 5.22 g (36 mMoles) of α-azido styrene in 20 ml of THF. The reaction mixture was stirred for two hours while maintaining the temperature at -70° to -50° C.; and then for an additional hour while allowing the temperature to warm to -15° C. The reaction was then quenched by the addition of 50 ml of 5% aqueous hydrochloric acid. Removal of the reaction solvent by evaporation under reduced pressure afforded 3.0 g of crude product. Purification by chromatography over silica gel, eluting with ethyl acetate, afforded 1.2 g of 2-aminothieno[3,2-c]pyridine. Mass Spec. M+ theory: 150, found: 150.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.6M, 22 ml | C(CCC)[Li]
reactant | thieno[3,2-c]pyridine | 30 mMoles, 4.05 g | S1C=CC=2C=NC=CC21 | C7H5NS
reactant | α-azido styrene | 36 mMoles, 5.22 g | N(=[N+]=[N-])C(=C)C1=CC=CC=C1 | C8H7N3
solvent | THF | C1CCOC1 | C4H8O
solvent | hexane | 50 ml | CCCCCC | C6H14
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-aminothieno[3,2-c]pyridine | 1.2 g | NC1=CC=2C=NC=CC2S1 | C7H6N2S
